US08314147B2
Intermediate 28: Ethyl (4-{[(2-chloro-5-nitrophenyl)carbonyl]amino}phenyl)acetate
2-Chloro-5-nitrobenzoic acid (1.99 g, 9.87 mmol) was stirred for 18 hrs at 60° C. in thionyl chloride (10 ml). The excess thionyl chloride was removed by evaporation and the crude oil dissolved in chloroform (20 ml). To this solution was added ethyl (4-aminophenyl)acetate (1.18 g, 6.58 mmol) and the reaction was stirred at 60° C. for 18 hrs. The reaction was diluted with water and the phases separated. The organic layer was dried (Na2SO4), solvent evaporated and the residue purified by flash chromatography (Biotage SP4, 40+M 0→50% ethylacetate/hexane) to afford the title compound as an off white solid (2.28 g, 96%).

reactant | 2-Chloro-5-nitrobenzoic acid | 9.87 mmol, 1.99 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl (4-aminophenyl)acetate | 6.58 mmol, 1.18 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | Ethyl (4-{[(2-chloro-5-nitrophenyl)carbonyl]amino}phenyl)acetate | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)NC1=CC=C(C=C1)CC(=O)OCC | C17H15ClN2O5
